US09056837B2
(a) N-(3-Bromophenyl)-4-(piperidin-1-ylmethyl)benzamide
DIEA (433 μL, 2.49 mmol) was added into a suspension of 3-bromobenzenamine (90.3 μL, 0.829 mmol), 4-(piperidin-1-ylmethyl)benzoic acid (200 mg, 0.912 mmol), BOP (477 mg, 1.08 mmol) in DMF (2 mL). The reaction mixture was stirred at room temperature under argon atmosphere overnight. The reaction mixture was loaded onto a 5 g silica loading cartridge. After solvent in the cartridge was dried out under vacuum, the cartridge was put on the ICSO system for purification (yield: 80%). MS (ESI+) m/z 373.0 [M+H]+.

reactant | DIEA | 2.49 mmol, 433 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-bromobenzenamine | 0.829 mmol, 90.3 μL | BrC=1C=C(C=CC1)N | C6H6BrN
reactant | 4-(piperidin-1-ylmethyl)benzoic acid | 0.912 mmol, 200 mg | N1(CCCCC1)CC1=CC=C(C(=O)O)C=C1 | C13H17NO2
reactant | BOP | 1.08 mmol, 477 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(3-Bromophenyl)-4-(piperidin-1-ylmethyl)benzamide | yield: 80% | BrC=1C=C(C=CC1)NC(C1=CC=C(C=C1)CN1CCCCC1)=O | C19H21BrN2O
